US07407963B2
3,4-dihydro-6-[2-(dimethylamino)ethoxy]-3-(4-piperidinyl)-2(1H)-quinazolinone
A mixture of 0.9 g (0.0022 mol) of 3,4-dihydro-6-[2-(dimethylamino)ethoxy]-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone, 10 mL methanol, and 0.5 g palladium(II) hydroxide (Pearlman's catalyst) was hydrogenated until the uptake of hydrogen ended. The catalyst was filtered off, the filtrate was evaporated down in vacuo, and the residue remaining was used in the next step without any further purification. Yield: 0.6 g (86% of theoretical). IR (KBr): 1662 (C═O) cm−1; MS: M+=318.

reactant | 3,4-dihydro-6-[2-(dimethylamino)ethoxy]-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone | 0.0022 mol, 0.9 g | CN(CCOC=1C=C2CN(C(NC2=CC1)=O)C1CCN(CC1)CC1=CC=CC=C1)C | C24H32N4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium(II) hydroxide | 0.5 g | [OH-].[Pd+2].[OH-]
solvent | methanol | 10 mL | CO | CH4O
product | 3,4-dihydro-6-[2-(dimethylamino)ethoxy]-3-(4-piperidinyl)-2(1H)-quinazolinone | CN(CCOC=1C=C2CN(C(NC2=CC1)=O)C1CCNCC1)C | C17H26N4O2
